US08957068B2
A solution of 4,4-dimethyloxazolidin-2-one (0.103 g, 0.895 mmol) and 2,4,6-trichloropyrimidine (0.181 g, 0.984 mmol, 1.10 equiv) in DMF (3 mL) was treated with NaH (60%, 0.0429 g, 1.07 mmol, 1.2 equiv), then the resulting mixture (yellow) was stirred at room temperature for 1 h. The reaction mixture was diluted with EtOAc (20 mL), washed with saturated aqueous NaCl (2×20 mL), dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/Heptane 0 to 40%) provided 3-(2,6-dichloropyrimidin-4-yl)-4,4-dimethyloxazolidin-2-one (0.146 g, white solid) in 62.3% yield. 1H NMR (300 MHz, CDCl3) δ 8.14 (s, 1H), 4.16 (s, 2H), 1.74 (s, 9H); LCMS m/z 261.9 (M+H)+, Rt 0.91 min.

reactant | 4,4-dimethyloxazolidin-2-one | 0.895 mmol, 0.103 g | CC1(NC(OC1)=O)C | C5H9NO2
reactant | 2,4,6-trichloropyrimidine | 0.984 mmol, 0.181 g, 1.10 equiv | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | NaH | 1.07 mmol, 0.0429 g, 1.2 equiv | [H-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-(2,6-dichloropyrimidin-4-yl)-4,4-dimethyloxazolidin-2-one | 0.146 g, 62.3% yield | ClC1=NC(=CC(=N1)N1C(OCC1(C)C)=O)Cl | C9H9Cl2N3O2
